US07569536B2
Concentrated hydrochloric acid (12.2 ml, 146 mmol) and anhydrous tin dichloride (12.7 g, 67.2 mmol) were sequentially added at 0° C. to a dichloromethane solution (10 ml) of 1-[2-nitro-4-(trifluoromethyl)phenyl]piperidine (6.13 g, 22.4 mmol), obtained as described in Referential Example 1-1 B. The resulting mixture was stirred for seven hours. Water was added to the mixture, and the resulting mixture was extracted three times with ethyl acetate. The obtained organic layer was washed with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (200 g, hexane/ethyl acetate=15/1). Thus, 2-(1-piperidinyl)-5-(trifluoromethyl)aniline (4.55 g, 83.0%) was yielded as a pale yellow solid.

reactant | hydrochloric acid | 146 mmol, 12.2 ml | Cl | ClH
reactant | tin dichloride | 67.2 mmol, 12.7 g | [Sn](Cl)Cl
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
reactant | 1-[2-nitro-4-(trifluoromethyl)phenyl]piperidine | 22.4 mmol, 6.13 g | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)N1CCCCC1 | C12H13F3N2O2
solvent | Water | O | H2O
product | 2-(1-piperidinyl)-5-(trifluoromethyl)aniline | 4.55 g, 83.0% | N1(CCCCC1)C1=C(N)C=C(C=C1)C(F)(F)F | C12H15F3N2
